US07432378B2
5-Methyl-2-{4-[3-(4-methyl-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-1H-benzoimidazole
This compound was prepared by the method described in Example 1, using 4-[3-(4-methyl-piperazin-1-yl)-propoxy]-naphthalene-1-carbaldehyde (63 mg, 0.20 mmol, 1.0 equiv), 4-methyl-benzene-1,2-diamine (24 mg, 0.20 mmol, 1.0 equiv), and Na2S2O5 (49 mg, 0.26 mmol, 1.3 equiv) in General Procedure 3. The desired product was isolated from the reaction mixture using Method 1 and was subsequently re-purified by Method 2 to afford 54.6 mg (66%) of the title compound. MS (electrospray): mass calculated for C26H30N4O, 414.24; m/z found, 415.62 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.48 (d, J=8.0 Hz, 1H), 8.10 (d, J=8.4 Hz, 1H), 8.0 (d, J=8.2 Hz, 1H), 7.78-7.65 (m, 4H), 7.50 (d, J=8.4 Hz, 1H), 7.21 (d, J=8.2 Hz, 1H), 4.43 (t, J=6.0 Hz, 2H), 3.40 (br s, 4H), 3.30-3.00 (m, 6H), 2.88 (s, 3H), 2.59 (s, 3H), 2.36-2.30 (m, 2H).

reactant | 4-[3-(4-methyl-piperazin-1-yl)-propoxy]-naphthalene-1-carbaldehyde | 0.20 mmol, 63 mg, 1.0 equiv | CN1CCN(CC1)CCCOC1=CC=C(C2=CC=CC=C12)C=O | C19H24N2O2
reactant | 4-methyl-benzene-1,2-diamine | 0.20 mmol, 24 mg, 1.0 equiv | CC=1C=C(C(=CC1)N)N | C7H10N2
product | 5-Methyl-2-{4-[3-(4-methyl-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-1H-benzoimidazole | CC1=CC2=C(NC(=N2)C2=CC=C(C3=CC=CC=C23)OCCCN2CCN(CC2)C)C=C1 | C26H30N4O
